US07084176B2
3-Methoxy-4-(2-phthalimidoethoxy)phenylacetic acid pentafluorophenyl ester (690 mg) and 3-cycloheptylaniline (500 mg) are dissolved in ethyl acetate (10 ml), and the mixture is heated with stirring at 60° C. for 18 hours. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give N-(3-cycloheptylphenyl)-3-methoxy-4-(2-phthalimidoethoxy)phenylacetamide (500 mg). This product is dissolved in ethanol (10 ml), and thereto is added hydrazine monohydrate (610 mg), and the mixture is heated under reflux for 2 hours. The insoluble materials are removed by filtration, and the solvent is evaporated under reduced pressure. To the residue is added water, and the mixture is extracted with chloroform. The organic layer is dried over sodium sulfate, and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 30% chloroform/methanol), and treated with 10% hydrogen chloride-methanol to give the desired compound (170 mg).

reactant | 3-Methoxy-4-(2-phthalimidoethoxy)phenylacetic acid pentafluorophenyl ester | 690 mg | FC1=C(C(=C(C(=C1OC(CC1=CC(=C(C=C1)OCCN1C(C=2C(C1=O)=CC=CC2)=O)OC)=O)F)F)F)F | C25H16F5NO6
reactant | 3-cycloheptylaniline | 500 mg | C1(CCCCCC1)C=1C=C(N)C=CC1 | C13H19N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-cycloheptylphenyl)-3-methoxy-4-(2-phthalimidoethoxy)phenylacetamide | 500 mg | C1(CCCCCC1)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)OCCN1C(C=2C(C1=O)=CC=CC2)=O)OC)=O | C32H34N2O5
